US05998433
b) Synthesis of N,N-dimethyl-[5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine
To a solution of 0.230 g (0.694 mmol) of 5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine in 20 ml of acetic acid, 0.094 ml (1.04 mmol) of 50% aqueous dimethylamine and 0.085 ml (1.04 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with 5% aqueous sodium hydrogen carbonate and extracted with dichloromethane 2 times. The combined organic layer was washed with water and dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (chloroform to chloroform/methanol=50/1); the resulting solid was washed with hexane to yield the desired product.

reactant | 5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 0.694 mmol, 0.230 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)OC=C3)C=C1 | C21H17NO3
reactant | dimethylamine | 1.04 mmol, 0.094 ml | CNC | C2H7N
reactant | formaldehyde | 1.04 mmol, 0.085 ml | C=O | CH2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N,N-dimethyl-[5-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(C1=CC=CC=C1)=O)=O | C24H24N2O3
